US04618697
A mixture of 2-(bromoethyl)-2-(4-methoxyphenyl)-1,3-dioxolane (2.87 g; 10 mmol), calcium carbonate (1.2 g; 12 mmol), formamide (44 ml) and water (4 ml) is heated at 120° C., under stirring, for 6 h. The reaction mixture is worked up as described in example 1a to give 2-(4-methoxyphenyl)-propionic acid (1.67 g; 8.3 mmol; yield 83%), m.p. 55°-57° C.

reactant | 2-(bromoethyl)-2-(4-methoxyphenyl)-1,3-dioxolane | 10 mmol, 2.87 g | BrCCC1(OCCO1)C1=CC=C(C=C1)OC | C12H15BrO3
reactant | calcium carbonate | 12 mmol, 1.2 g | C([O-])([O-])=O.[Ca+2]
reactant | formamide | 44 ml | C(=O)N | CH3NO
solvent | water | 4 ml | O | H2O
product | 2-(4-methoxyphenyl)-propionic acid | 8.3 mmol, 1.67 g, yield 83% | COC1=CC=C(C=C1)C(C(=O)O)C | C10H12O3
